US07195719B1
(2S, cis)-3-propyloxiranecarboxylic acid
A flask was charged with 34 ml of CCl4, 34 ml of acetonitrle and 2 g of (2S, cis)-3-propyloxiranemethanol. Then 11 g of NaIO4 in 51 ml of water were added, followed by 86 mg of RuCl3 to this biphasic solution. The mixture was stirred vigorously for 3 hrs at RT and 100 ml of methylene chloride was added. The organic phase was separated and water phase was extracted with methylene chloride. The combined black organic phase was dried over MgSO4 and concentrated. The residue was diluted with ether and filtered through celite to give colorless solution. After evaporation of solvent a pure product was obtained (yield 67%).

reactant | CCl4 | 34 ml | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | (2S, cis)-3-propyloxiranemethanol | 2 g | C(CC)[C@@H]1[C@@H](O1)CO | C6H12O2
reactant | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
reactant | water | 51 ml | O | H2O
product | (2S, cis)-3-propyloxiranecarboxylic acid | yield 67% | C(CC)[C@H]1[C@H](O1)C(=O)O | C6H10O3
